US05389641
24c) 4-(4-Bromomethylphenyl)-5-cyanopyrimidine
A mixture of 5-cyano-4-(p-tolyl)pyrimidine (2.5 g, 12.8 mmol), N-bromosuccinimide (2.4 g, 13.5 mmol) and benzoyl peroxide (catalytic amount) in carbon tetrachloride (100 ml) was refluxed under light radiation for 1 hour. After cooling, insoluble materials were removed and the filtrate was concentrated to dryness to afford a yellow syrup (3.7 g, 100%).

reactant | 5-cyano-4-(p-tolyl)pyrimidine | 12.8 mmol, 2.5 g | C(#N)C=1C(=NC=NC1)C1=CC=C(C=C1)C | C12H9N3
reactant | N-bromosuccinimide | 13.5 mmol, 2.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(4-Bromomethylphenyl)-5-cyanopyrimidine | 3.7 g, 100% | BrCC1=CC=C(C=C1)C1=NC=NC=C1C#N | C12H8BrN3
